2198-04-07 10:17:00 Physician Attending Progress Note
Chief Complaint: altered mental status, tachypnea, hypoxemia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64 yo mans with CHF, DVT, ESRD on HD, metastatic NSCLung CA, recent
   admit for caudo equina syndrome for mets, also for missed HD.
   Yesterday after HD, became, confused tachycarding and HTNSive.  Went to
   ED got IVF NS 750cc, Vanco/Cefepime/Levo.  CTA negative for PE, CXR
   with b/l opacities consistent with mets.
   24 Hour Events:
 EKG - At [**2198-4-7**] 01:16 AM
   Allergies:
   Penicillins
   Rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-4-7**] 12:55 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-4-7**] 08:00 AM
   Other medications:
   phoslo
   zocor
   asa
   plavix
   thiamine
   decadron
   lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-7**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 89 (89 - 122) bpm
   BP: 135/106(104) {110/46(62) - 142/106(104)} mmHg
   RR: 30 (17 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
             1,450 mL
   PO:
             750 mL
   TF:
   IVF:
   200 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    155 mL
   Urine:
   155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,295 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.58/35/64/29/10
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: Left base, Rhonchorous:
   b/l rhonchi)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Stage II Sacral Decube
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): times
   3, Movement: Not assessed, Tone: Not assessed, delusional
   Labs / Radiology
   7.1 g/dL
   259 K/uL
   82 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.6 mEq/L
   42 mg/dL
   96 mEq/L
   137 mEq/L
   22.8 %
   20.5 K/uL
        [image002.jpg]
                             [**2198-4-7**]  01:56 AM
                             [**2198-4-7**]  02:10 AM
                             [**2198-4-7**]  05:25 AM
   WBC
   20.5
   Hct
   22.8
   Plt
   259
   Cr
   2.3
   TCO2
   36
   34
   Glucose
   82
   Other labs: PT / PTT / INR:48.9/41.1/5.6, CK / CKMB / Troponin-T:30//,
   Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Delirium:  Although he is oriented, he tells stories of his being at
   McDonald's yesterday, which he wasn't.  No evidence of brain mets on
   head CT.
   Tachycardia:  Unclear cause, may be due to pain and lack of beta
   blocker, now better.
   Leukocytosis:  Has been chronically elevated.  No evidence of new
   infection.
   HTN:
   ESRD:  HD on Friday
   Left Common Femoral DVT: hold coumadin with high INR
   Spinal Mets:  On dexamethasone taper
   CAD/CHF (chronic systolic HF):  No active ischemia, no evidence of
   pulmonary edema.
   Will try to further assess his capacity and his code status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-7**] 01:33 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Will try to communicate with [**Name (NI) 2512**]
   [**Name2 (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   Tachypnea/Dyspnea:  Unclear cause, may be due to worsening metastases
   versus mild fluid overload, more likely the former.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2513**] [**Name8 (MD) 593**], MD
   on:[**2198-4-7**] 11:20 ------

2198-04-08 07:40:00 Physician Resident Progress Note
Chief Complaint: 65 y/o with metastatic lung cancer c/b cspine mets and
   cauda equina syndrome, here with complaints of chest pain and back pain
   after dialysis, found to be tachycardic and delirous.
   24 Hour Events:
   - ruled out for ACS although may have had event recently
   - family never came in to finalize code discussion
   - restarted metoprolol
   - on schedule for HD on monday, d/c calcium acetate given alkalosis
   Allergies:
   Penicillins
   Rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-4-7**] 12:55 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-4-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Everything bothers me.
   Pain: Unable to answer
   Pain location: lower back, relieved with pain meds
   Flowsheet Data as of  [**2198-4-8**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.2
   HR: 86 (76 - 110) bpm
   BP: 125/53(71) {103/50(65) - 142/106(104)} mmHg
   RR: 23 (18 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  1,980 mL
                                                                    130 mL
   PO:
                                                                  1,230 mL
                                                                    130 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                    253 mL
                                                                     42 mL
   Urine:
                                                                    253 mL
                                                                     42 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,727 mL
                                                                     88 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: chronically ill appearing, non-toxic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), coarse breath sounds
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   diminished bowel sounds
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): self, place, Movement: Not assessed, Tone: Not assessed,
   attentive, but then drifts off during interview
   Labs / Radiology
   259 K/uL
   7.1 g/dL
   82 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.6 mEq/L
   42 mg/dL
   96 mEq/L
   137 mEq/L
   22.8 %
   20.5 K/uL
        [image002.jpg]
                             [**2198-4-7**]  01:56 AM
                             [**2198-4-7**]  02:10 AM
                             [**2198-4-7**]  05:25 AM
                             [**2198-4-7**]  05:02 PM
   WBC
   20.5
   Hct
   22.8
   Plt
   259
   Cr
   2.3
   TropT
   0.48
   0.46
   TCO2
   36
   34
   Glucose
   82
   Other labs: PT / PTT / INR:48.9/41.1/5.6, CK / CKMB /
   Troponin-T:27/4/0.46, Lactic Acid:1.5 mmol/L, Ca++:8.0 mg/dL, Mg++:1.6
   mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: Admit Labs:
   WBC RBC Hgb Hct MCV MCH MCHC RDW Plt Ct
   22.3* 3.01* 7.6* 23.9*1 80* 25.3* 31.9 20.4* 292
   Imaging: CTA: IMPRESSION:
   1. No pulmonary embolism. No aortic dissection.
   2. Unchanged appearance of innumerable bilateral spiculated pulmonary
   nodules, most consistent with metastatic disease.
   3. Unchanged appearance of low-attenuation foci within the liver, which
   may
   represent metastatic disease.
   4. Unchanged appearance of multiple osseous metastatic lesions.
   .
   CXR:
   Multifocal bilateral parenchymal opacities are similar in appearance to
   previous studies, although there is slightly increased opacity seen at
   the
   left base. Most likely, these represent the patient's known bilateral
   metastatic disease, though it is difficult to exclude an underlying
   pneumonia
   at the left base. There is no significant pleural effusion. There is no
   pneumothorax. Left basilar atelectasis is slightly improved.
   Microbiology: BCx: NGTD
   Sputum: Negative
   Urine: NGTD
   RPR: Non-reactive
   Assessment and Plan
   65 y/o with metastatic lung cancer c/b cspine mets and cauda equina
   syndrome, here with complaints of chest pain and back pain after
   dialysis, found to be tachycardic and delirous.
   .
   Chest pain:  Mild troponin elevation c/w ESRD and ? mild demand
   ischemia.  Does not appear to have been acute event.  CTA is negative
   for PE and dissection and also in the setting of an INR of 5.  Troponin
   elevated from baseline but negative CKs and EKG essentially unchanged.
   - Continue ASA, beta block, statin.  [**Month (only) 60**] be due to malignancy.
   .
   Tachycardia: No-longer tachycardic.  sinus; control pain.  Will
   continue beta blocker.
   .
   Respiratory Alkalosis / Metabolic alkalosis: Former secondary to
   delirium, pain, and or infection.  Will rx pain, pan-cx'd and given
   abios in ED.  No obvious source of infection, no evidence of fever, and
   WBC may be due to steroids.
   .
   Delirium, Pain: appears secondary to pain.  ?Steroids, ?infection,
   ?pain.
   - Lidocaine patch for pain control as may avoid systemic toxicity
   .
   Metastatic lung cancer with spinal mets, cauda equina: No chemo.  On
   decadron taper.  follow WBC count with taper.
   .
   Cough, sputum: CT chest appears to be unchanaged, though bronchi in R
   may be slightly more narrow and a luminal irregularity may represent
   mucous.
   - Defer treatment for pneumonia at this time.
   - Sputum sample Negative.
   - Check LDH if febrile.
   .
   Heme/DVT: Anemia, Supratherapeutic INR: holding coumadin for now.
   Restart with goal [**1-7**].
   .
   Follow Hct, hold coumadin.
   .
   Renal failure: for dialysis per renal.
   .
   Code: yesterday patient had said he would like to be DNR/DNI, will
   discuss with family today, patient unclear about his wishes this AM.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-7**] 01:33 AM
   Prophylaxis:
   DVT: supratherapeutic INR
   Stress ulcer: Protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2198-04-08 09:39:00 Physician Attending Progress Note
Chief Complaint: Tachycardia and tachypnea
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo with metastatic lung CA, presented with tachypnea/tachycardia
   after HD.
   24 Hour Events:
   Patient with elevated troponin that is stable.  CK was flat.  Restarted
   Beta-blocker.  Scheduled for HD tomorrow.
   Allergies:
   Penicillins
   Rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-4-7**] 12:55 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Oxycodone
   Zocor
   Protonix
   MVI
   Plavix
   thiamine
   decadron
   lopressor
   ASA
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-8**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 86 (76 - 103) bpm
   BP: 129/64(80) {103/50(65) - 141/79(93)} mmHg
   RR: 21 (18 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  1,980 mL
                                                                    190 mL
   PO:
                                                                  1,230 mL
                                                                    190 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                    253 mL
                                                                     42 mL
   Urine:
                                                                    253 mL
                                                                     42 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,727 mL
                                                                    148 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace, Sacral Decube Stage II-III
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): Times 3, Movement: Not assessed, Tone: Not assessed,
   Lethargic
   Labs / Radiology
   7.1 g/dL
   259 K/uL
   82 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.6 mEq/L
   42 mg/dL
   96 mEq/L
   137 mEq/L
   22.8 %
   20.5 K/uL
        [image002.jpg]
                             [**2198-4-7**]  01:56 AM
                             [**2198-4-7**]  02:10 AM
                             [**2198-4-7**]  05:25 AM
                             [**2198-4-7**]  05:02 PM
   WBC
   20.5
   Hct
   22.8
   Plt
   259
   Cr
   2.3
   TropT
   0.48
   0.46
   TCO2
   36
   34
   Glucose
   82
   Other labs: PT / PTT / INR:48.9/41.1/5.6, CK / CKMB /
   Troponin-T:27/4/0.46, Lactic Acid:1.5 mmol/L, Ca++:8.0 mg/dL, Mg++:1.6
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Tachycardia:  Resolved with beta-blocker
   Tachypnea:  RR is still a little high, but oxygenation is adequate on
   RA.  Likely due to worsening metastatic disease
   Leukocytosis:  No evidence of infection.
   ESRD: HD tomorrow
   Left DV: Coumadin on hold with high INR
   Chronic systolic HF
   altered mental status/delirium:  Not delusional today, but still
   lethargic.  Unclear if this is far from his baseline.
   Given performance status/decubes, etc.  Prognosis overall is very poor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-7**] 01:33 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2198-04-09 07:34:00 Physician Resident Progress Note
Chief Complaint: Tachycardia/tachypnea
   24 Hour Events:
   - Patient and wife agree to be DNR/DNI and plan to send home with
   hospice care today after HD.
   - Patient desaturated overnight, likely [**1-6**] mucous plugging as improved
   with suctioning and nebulizers.
   Allergies:
   Penicillins
   Rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-4-7**] 12:55 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Oxycontin/oxycodone/lido patch
   Guaifenesin
   ASA 325
   Clopidogrel
   Metoprolol tartrate 25 [**Hospital1 **]
   Decadron taper
   Olanzapine
   thiamine
   Albuterol/ipratropium nebs
   Simvastatin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-9**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.2
   HR: 66 (66 - 122) bpm
   BP: 91/51(60) {91/46(58) - 156/70(92)} mmHg
   RR: 11 (11 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                    745 mL
                                                                     30 mL
   PO:
                                                                    745 mL
                                                                     30 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                     86 mL
                                                                     28 mL
   Urine:
                                                                     86 mL
                                                                     28 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    659 mL
                                                                      2 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   251 K/uL
   7.2 g/dL
   82 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.6 mEq/L
   42 mg/dL
   96 mEq/L
   137 mEq/L
   22.5 %
   29.1 K/uL
        [image002.jpg]
                             [**2198-4-7**]  01:56 AM
                             [**2198-4-7**]  02:10 AM
                             [**2198-4-7**]  05:25 AM
                             [**2198-4-7**]  05:02 PM
                             [**2198-4-8**]  02:47 AM
   WBC
   20.5
   29.1
   Hct
   22.8
   22.5
   Plt
   259
   251
   Cr
   2.3
   TropT
   0.48
   0.46
   TCO2
   36
   34
   Glucose
   82
   Other labs: PT / PTT / INR:48.9/41.1/5.6, CK / CKMB /
   Troponin-T:27/4/0.46, Lactic Acid:1.5 mmol/L, Ca++:8.0 mg/dL, Mg++:1.6
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   65 y/o with metastatic lung cancer c/b cspine mets and cauda equina
   syndrome, here with complaints of chest pain and back pain after
   dialysis, found to be tachycardic, tachypnic, and delirous.
   .
   Chest pain:  Mild troponin elevation c/w ESRD and ? mild demand
   ischemia.  Does not appear to have been acute event.  CTA is negative
   for PE and dissection and also in the setting of an INR of 5.  Troponin
   elevated from baseline but negative CKs and EKG essentially unchanged.
   Likely secondary to progression of underlying lung cancer
   - Continue ASA, beta block, statin.  Consider discontinuing medical
   management of coronary artery disease per discussion with palliative
   care.
   .
   Tachycardia: Likely secondary to pain and withdrawl of beta blocker
   -Pain control with oxycontin/oxycodone and lidocaine patch
   .
   Respiratory distress: Tachypneic and in respiratory alkalosis on
   admission.  Also found to be hypoxic secondary to mucous plugging.
   Likely related to underlying malignancy.
   -Pain control
   .
   Delirium, Pain: appears secondary to pain and steroids.
   - Lidocaine patch for pain control as may avoid systemic toxicity
   .
   Metastatic lung cancer with spinal mets, cauda equina: No chemo options
   -continue decadron taper
   .
   Leukocytosis: CT chest unchanged, and patchy opacities likely secondary
   to mets.  Sputum sample is negative.  Likely secondary to decadron
   -Defer antibiotics at this time
   .
   Anemia: At baseline
   .
   Supratherapeutic INR: holding coumadin for now, will reconsider long
   term benefit given goals of care
   .
   Renal failure: for dialysis per renal.
   .
   Code: yesterday patient had said he would like to be DNR/DNI, and to go
   home with hospice.  Will get palliative care consult today.
   ICU Care
   Nutrition:
   Comments: Renal diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-7**] 01:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2198-04-09 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Family meeting held, where initial wishes of Mr. [**Known lastname 1161**] were
   communicated to go home with hospice, which his wife was trying to
   arrange with case management.  Sons were very hostile towards this, as
   they felt he should stay in the hospital and continue HD.    They
   seemed to convince him otherwise, and now the goals of care may have
   shifted.
   Allergies:
   Penicillins
   Rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-10**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 72 (63 - 91) bpm
   BP: 126/56(73) {89/49(62) - 134/68(80)} mmHg
   RR: 19 (15 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  1,020 mL
                                                                    120 mL
   PO:
                                                                    270 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
                                                                    750 mL
   Total out:
                                                                     44 mL
                                                                     15 mL
   Urine:
                                                                     44 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    976 mL
                                                                    105 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   194 K/uL
   5.5 g/dL
   93 mg/dL
   4.1 mg/dL
   26 mEq/L
   6.3 mEq/L
   83 mg/dL
   92 mEq/L
   130 mEq/L
   16.9 %
   22.8 K/uL
        [image002.jpg]
                             [**2198-4-7**]  01:56 AM
                             [**2198-4-7**]  02:10 AM
                             [**2198-4-7**]  05:25 AM
                             [**2198-4-7**]  05:02 PM
                             [**2198-4-8**]  02:47 AM
                             [**2198-4-9**]  10:30 AM
   WBC
   20.5
   29.1
   22.8
   Hct
   22.8
   22.5
   16.9
   Plt
   259
   251
   194
   Cr
   2.3
   4.1
   TropT
   0.48
   0.46
   TCO2
   36
   34
   Glucose
   82
   93
   Other labs: PT / PTT / INR:44.0/36.0/4.9, CK / CKMB /
   Troponin-T:27/4/0.46, Lactic Acid:1.5 mmol/L, Ca++:8.7 mg/dL, Mg++:2.3
   mg/dL, PO4:8.1 mg/dL
   Imaging: CXR
   IMPRESSION: Possible development of right basilar consolidation in
   comparison
   to the radiograph three days prior.
   Microbiology: BCx: NGTD
   UCx: negative
   RPR: NR
   Sputum: clean
   Assessment and Plan
   65 y/o with metastatic lung cancer c/b cspine mets and cauda equina
   syndrome, here with complaints of chest pain and back pain after
   dialysis, found to be tachycardic, tachypnic, and delirous.
   .
   Pulmonary: New infiltrate on CXR from yesterday although may have been
   component of volume overload as was pre-HD, if spikes fever or becomes
   hypoxic would likely need coverage of HAP as has been in-house
   >72hours.
   - Sputum sample today
   - Repeat CXR.
   Chest pain:  Mild troponin elevation c/w ESRD and ? mild demand
   ischemia.  Does not appear to have been acute event.  CTA is negative
   for PE and dissection and also in the setting of an INR of 5.  Troponin
   elevated from baseline but negative CKs and EKG essentially unchanged.
   Likely secondary to progression of underlying lung cancer
   - Continue ASA, beta block, statin.  Consider discontinuing medical
   management of coronary artery disease per discussion with palliative
   care.
   .
   Tachycardia: Likely secondary to pain and withdrawl of beta blocker
   -Pain control with oxycontin/oxycodone and lidocaine patch
   .
   Respiratory distress: Tachypneic and in respiratory alkalosis on
   admission.  Also found to be hypoxic secondary to mucous plugging.
   Likely related to underlying malignancy.
   -Pain control
   .
   Delirium, Pain: appears secondary to pain and steroids.
   - Lidocaine patch for pain control as may avoid systemic toxicity
   .
   Metastatic lung cancer with spinal mets, cauda equina: No chemo options
   -continue decadron taper
   .
   Leukocytosis: CT chest unchanged, and patchy opacities likely secondary
   to mets.  Sputum sample is negative.  Likely secondary to decadron
   -Defer antibiotics at this time
   .
   Anemia: At baseline
   .
   Supratherapeutic INR: holding coumadin for now, will reconsider long
   term benefit given goals of care.  INR supratherapeutic yesterday.
   .
   Renal failure: HD yesterday.
   .
   Code: yesterday patient had said he would like to be DNR/DNI, and to go
   home with hospice.  Will get palliative care consult today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-7**] 01:33 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2198-04-09 10:30:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   family discussions re goals of care - likely DNR/DNI/DNH, ongoing
   decisions re home with hospice
   One question will be role of HD which some family wants to continue
   Allergies:
   Penicillins
   Rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2198-4-7**] 12:55 AM
   Infusions:
   Other ICU medications:
   Other medications:
   oxycontin, zocor, protonix, colace, MVI, Plavix thiamine, decadron,
   lopressor, ASA, lidocaine patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-9**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.4
   HR: 64 (63 - 122) bpm
   BP: 117/61(75) {91/46(58) - 156/70(92)} mmHg
   RR: 16 (11 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                    745 mL
                                                                     30 mL
   PO:
                                                                    745 mL
                                                                     30 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                     86 mL
                                                                     28 mL
   Urine:
                                                                     86 mL
                                                                     28 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    659 mL
                                                                      2 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.2 g/dL
   251 K/uL
   82 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.6 mEq/L
   42 mg/dL
   96 mEq/L
   137 mEq/L
   22.5 %
   29.1 K/uL
        [image002.jpg]
                             [**2198-4-7**]  01:56 AM
                             [**2198-4-7**]  02:10 AM
                             [**2198-4-7**]  05:25 AM
                             [**2198-4-7**]  05:02 PM
                             [**2198-4-8**]  02:47 AM
   WBC
   20.5
   29.1
   Hct
   22.8
   22.5
   Plt
   259
   251
   Cr
   2.3
   TropT
   0.48
   0.46
   TCO2
   36
   34
   Glucose
   82
   Other labs: PT / PTT / INR:48.9/41.1/5.6, CK / CKMB /
   Troponin-T:27/4/0.46, Lactic Acid:1.5 mmol/L, Ca++:8.0 mg/dL, Mg++:1.6
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   64 M with MMP including CHF, DVT, ESRD on HD, metastatic poorly
   differentiated CA, likely NSLCA. He is s/p multiple recent
   admissions, most recently from [**3-7**] - [**2198-3-22**] for respiratory failure
   requiring intubation, thought due to volume overload
   from a missed HD session.
   Tachycardia:  Resolved with beta-blocker
   Tachypnea:  RR is still a little high, but oxygenation is adequate on
   RA.  Likely due to worsening metastatic disease
   Leukocytosis:  No evidence of infection.
   ESRD: HD tomorrow
   Left DV: Coumadin on hold with high INR
   Chronic systolic HF
   Altered mental status/delirium:  Not delusional today, but still
   lethargic.  Unclear if this is far from his baseline.
   Given performance status/decubes, etc.  Prognosis overall is very poor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-7**] 01:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent:

2198-04-10 11:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tx 2U PRBC for HCT 16.9
 etiology of blood loss unclear
 as yesterday
   plans were for hospice we did not even repeat labs or aggressively
   search for source as he was hemodynamically stable  -
   Allergies:
   Penicillins
   Rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   oxycodone, pantoproazole, Dex taper, lopressor. lidocaine patch,
   tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-10**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 72 (63 - 91) bpm
   BP: 126/56(73) {89/49(62) - 134/68(80)} mmHg
   RR: 19 (16 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  1,020 mL
                                                                    120 mL
   PO:
                                                                    270 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
                                                                    750 mL
   Total out:
                                                                     44 mL
                                                                     15 mL
   Urine:
                                                                     44 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    976 mL
                                                                    105 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 97%
   ABG: ////
   Physical Examination
   Gen:sitting in bed with shovel mask, talking
   CV:RR
   Chest:fair air movement no wheezes
   Abd:softdistened +BS
   Ext:+edema
   Labs / Radiology
   8.4 g/dL
   171 K/uL
   93 mg/dL
   4.1 mg/dL
   26 mEq/L
   6.3 mEq/L
   83 mg/dL
   92 mEq/L
   130 mEq/L
   25.0 %
   23.2 K/uL
        [image002.jpg]
                             [**2198-4-7**]  01:56 AM
                             [**2198-4-7**]  02:10 AM
                             [**2198-4-7**]  05:25 AM
                             [**2198-4-7**]  05:02 PM
                             [**2198-4-8**]  02:47 AM
                             [**2198-4-9**]  10:30 AM
                             [**2198-4-10**]  09:10 AM
   WBC
   20.5
   29.1
   22.8
   23.2
   Hct
   22.8
   22.5
   16.9
   25.0
   Plt
   259
   251
   194
   171
   Cr
   2.3
   4.1
   TropT
   0.48
   0.46
   TCO2
   36
   34
   Glucose
   82
   93
   Other labs: PT / PTT / INR:44.0/36.0/4.9, CK / CKMB /
   Troponin-T:27/4/0.46, Lactic Acid:1.5 mmol/L, Ca++:8.7 mg/dL, Mg++:2.3
   mg/dL, PO4:8.1 mg/dL
   Assessment and Plan
   64 M with MMP including CHF, DVT, ESRD on HD, metastatic poorly
   differentiated CA, likely NSLCA. He is s/p multiple recent
   admissions, most recently from [**3-7**] - [**2198-3-22**] for respiratory failure
   requiring intubation, thought due to volume overload
   from a missed HD session.
   Anemia: may have been spurious lab, only bumped to 25, possible
   etiologies would be GI- not obviously bleeding however, versus RP bleed
   or rectal sheath hematoma (does have an elevated INR) In terms of how
   aggressively  to pursue we need to further clarify goals of care with
   sons. [**Name (NI) **] repeat hct this afternoon.
   Tachypnea:  RR is still a little high, but oxygenation is adequate on
   RA.  Likely due to worsening metastatic disease
   Leukocytosis:  No evidence of infection. All cx neg to date- ?
   ESRD: HD tomorrow
   Left DVT: Coumadin on hold with high INR
   Chronic systolic HF
   Altered mental status/delirium:  improved after HD
   Given performance status/decubes, etc.  Prognosis overall is very poor.
   Pt will be chaning his HCP to his son [**Name (NI) 591**] [**Name (NI) 2547**] and we are awaiting
   formla discussion re this
   ICU Care
   Nutrition: po diet today
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-7**] 01:33 AM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : possible tx to floor when goals of care are clarified
   Total time spent:

2198-04-11 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2198-4-10**] 07:52 PM
   -          Kayexelate given yesterday for K 6.1
   Allergies:
   Penicillins
   Rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-11**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.5
C (97.7
   HR: 91 (64 - 105) bpm
   BP: 134/71(80) {109/54(69) - 154/78(95)} mmHg
   RR: 18 (13 - 32) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  1,100 mL
                                                                    250 mL
   PO:
                                                                  1,100 mL
                                                                    250 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    120 mL
                                                                     55 mL
   Urine:
                                                                    120 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    980 mL
                                                                    195 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   191 K/uL
   7.5 g/dL
   93 mg/dL
   4.0 mg/dL
   21 mEq/L
   6.1 mEq/L
   83 mg/dL
   97 mEq/L
   134 mEq/L
   23.2 %
   20.8 K/uL
        [image002.jpg]
                             [**2198-4-7**]  01:56 AM
                             [**2198-4-7**]  02:10 AM
                             [**2198-4-7**]  05:25 AM
                             [**2198-4-7**]  05:02 PM
                             [**2198-4-8**]  02:47 AM
                             [**2198-4-9**]  10:30 AM
                             [**2198-4-10**]  09:10 AM
                             [**2198-4-10**]  04:49 PM
   WBC
   20.5
   29.1
   22.8
   23.2
   20.8
   Hct
   22.8
   22.5
   16.9
   25.0
   23.2
   Plt
   259
   251
   194
   171
   191
   Cr
   2.3
   4.1
   4.0
   TropT
   0.48
   0.46
   TCO2
   36
   34
   Glucose
   82
   93
   93
   Other labs: PT / PTT / INR:44.0/36.0/4.9, CK / CKMB /
   Troponin-T:27/4/0.46, Lactic Acid:1.5 mmol/L, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:7.1 mg/dL
   Imaging:CXR:
   As compared to the previous radiograph, the lungs show minimally
   improved
   transparency. However, the widespread bilateral patchy opacities are
   still
   clearly present. The size of the cardiac silhouette is slightly larger
   than
   on the previous radiograph, the material of the thoracic vertebroplasty
   is
   unchanged. No other relevant changes.
   .
   Culture Data: BCx: Negative/NGTD, Ucx: Negative, Sputum: Negative, RPR:
   NR
   Assessment and Plan
   65 y/o with metastatic lung cancer c/b cspine mets and cauda equina
   syndrome, here with complaints of chest pain and back pain after
   dialysis, found to be tachycardic, tachypnic, and delirous.
   .
   Pulmonary: Stable.  Apparent aspiration this AM as desaturated in
   setting of eating breakfast.  Will make NPO for now, obtain speech and
   swallow and continue supportive care.
   - Sputum sample today
   - Repeat CXR.
   .
   Chest pain:  Mild troponin elevation c/w ESRD and ? mild demand
   ischemia.  Does not appear to have been acute event.  CTA is negative
   for PE and dissection and also in the setting of an INR of 5.  Troponin
   elevated from baseline but negative CKs and EKG essentially unchanged.
   Likely secondary to progression of underlying lung cancer
   - Continue ASA, beta block, statin for now
   .
   Tachycardia: Likely secondary to pain and withdrawl of beta blocker
   -Pain control with oxycontin/oxycodone and lidocaine patch
   .
   Respiratory distress: Tachypneic and in respiratory alkalosis on
   admission.  Also found to be hypoxic secondary to mucous plugging.
   Likely related to underlying malignancy.
   -Pain control
   .
   Delirium, Pain: appears secondary to pain and steroids.
   - Lidocaine patch for pain control as may avoid systemic toxicity
   .
   Metastatic lung cancer with spinal mets, cauda equina: No chemo options
   -continue decadron taper
   .
   Leukocytosis: CT chest unchanged, and patchy opacities likely secondary
   to mets.  Sputum sample is negative.  Likely secondary to decadron
   -Defer antibiotics at this time
   .
   Anemia: At baseline
   .
   Supratherapeutic INR: holding coumadin for now, will reconsider long
   term benefit given goals of care.  INR supratherapeutic yesterday.
   .
   Renal failure: HD for today
 page renal to discuss, consider starting
   sevelamer for elevated CaxPhos product.
   .
   Code: DNR/DNI, continuing with supportive care, HD,
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-7**] 01:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
 discuss goals of care with new HCP today.
   Disposition:

2198-04-11 11:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   repeat HCT 23 last PM
   K 6.1, Rx [**Last Name (LF) 2555**], [**First Name3 (LF) 178**] send with HD this afternoon
   This AM dropped O2 sats to 70s after breakfast - suctioned, sats better
   now but oevrall increased O2 req
   Allergies:
   Penicillins
   Rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-11**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.5
   HR: 83 (66 - 105) bpm
   BP: 131/65(80) {114/54(69) - 154/108(100)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  1,100 mL
                                                                    570 mL
   PO:
                                                                  1,100 mL
                                                                    570 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    120 mL
                                                                     65 mL
   Urine:
                                                                    120 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    980 mL
                                                                    505 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   Gen:sitting in bed with shovel mask, talking
   CV:RR
   Chest:fair air movement no wheezes
   Abd:softdistened +BS
   Ext:+edema
   Labs / Radiology
   7.5 g/dL
   191 K/uL
   93 mg/dL
   4.0 mg/dL
   21 mEq/L
   6.1 mEq/L
   83 mg/dL
   97 mEq/L
   134 mEq/L
   23.2 %
   20.8 K/uL
        [image002.jpg]
                             [**2198-4-7**]  01:56 AM
                             [**2198-4-7**]  02:10 AM
                             [**2198-4-7**]  05:25 AM
                             [**2198-4-7**]  05:02 PM
                             [**2198-4-8**]  02:47 AM
                             [**2198-4-9**]  10:30 AM
                             [**2198-4-10**]  09:10 AM
                             [**2198-4-10**]  04:49 PM
   WBC
   20.5
   29.1
   22.8
   23.2
   20.8
   Hct
   22.8
   22.5
   16.9
   25.0
   23.2
   Plt
   259
   251
   194
   171
   191
   Cr
   2.3
   4.1
   4.0
   TropT
   0.48
   0.46
   TCO2
   36
   34
   Glucose
   82
   93
   93
   Other labs: PT / PTT / INR:44.0/36.0/4.9, CK / CKMB /
   Troponin-T:27/4/0.46, Lactic Acid:1.5 mmol/L, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
   64 M with MMP including CHF, DVT, ESRD on HD, metastatic poorly
   differentiated CA, likely NSLCA. He is s/p multiple recent
   admissions, most recently from [**3-7**] - [**2198-3-22**] for respiratory failure
   requiring intubation, thought due to volume overload
   from a missed HD session.
   Hypoxia/Resp Distress: likely asp event based on timing and worsening
   CXR this AM. NPO Speech and Swallow eval. Need to address nutrition
   with family.
   Anemia: may have been spurious lab, only bumped to 25, stable though
   with repeat at 23. Possible etiologies would be GI- not obviously
   bleeding however, versus RP bleed or rectal sheath hematoma (does have
   an elevated INR)
   In terms of how aggressively  to pursue we need to further clarify
   goals of care with sons.
   Leukocytosis:  [**Name2 (NI) 59**] evidence of infection but suspect recurrent
   aspiration based on this AM events
    All cx neg to date- ? working theory had been steroids and no source
   of infection. Will empirically cover with Levo and Flagyl
   ESRD: HD today
   Left DVT: Coumadin on hold with high INR, get coags with HD and may
   need Vit K to get back in range
   Pain control: increased oxycontin to TID, prn breakthrough for turns
   Given performance status/decubes, etc.  Prognosis overall is very poor.
   Pt will be chaning his HCP to his son [**Name (NI) 591**] [**Name (NI) 2547**] and we are awaiting
   formla discussion re this
   ICU Care
   Nutrition: speech and swallow
   Glycemic Control:
   Lines: PIV,
   Prophylaxis:
   DVT: high inr
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : possible tx to floor but again family goals of care need
   to be clariied today with the evolving HCP
   Total time spent: 45

2198-04-12 07:30:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
   - Got HD today with 2.2L out
   - Got 1 Unit blood with HD for hct 22.7
   - Family Meeting held - updated - no change in goals of care
   - Desaturates to 70s with eating/drinking, requring 6L and cool nebs
   and deep suctioning.  Speech and Swallow consulted after repeat desat
   during the day c/w aspiration.
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Sevelamer 800mg TID
   Morphine elixir prn
   oxycodone prn
   Lido patch
   Metoprolol 25mg [**Hospital1 **]
   Dexamethasone 0.5mg qhs
   olanzapine prn
   PPI
   Albuterol nebs
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-12**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.7
C (96.2
   HR: 71 (66 - 111) bpm
   BP: 108/53(67) {76/49(58) - 152/108(100)} mmHg
   RR: 12 (12 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.4 kg (admission): 71.8 kg
   Height: 67 Inch
                  Total In:
                                                                    570 mL
                  PO:
                                                                    570 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                     92 mL
                                                                     10 mL
   Urine:
                                                                     92 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    478 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   177 K/uL
   7.5 g/dL
   102 mg/dL
   4.7 mg/dL
   23 mEq/L
   5.9 mEq/L
   98 mg/dL
   96 mEq/L
   132 mEq/L
   22.7 %
   21.7 K/uL
        [image002.jpg]
                             [**2198-4-7**]  01:56 AM
                             [**2198-4-7**]  02:10 AM
                             [**2198-4-7**]  05:25 AM
                             [**2198-4-7**]  05:02 PM
                             [**2198-4-8**]  02:47 AM
                             [**2198-4-9**]  10:30 AM
                             [**2198-4-10**]  09:10 AM
                             [**2198-4-10**]  04:49 PM
                             [**2198-4-11**]  01:13 PM
   WBC
   20.5
   29.1
   22.8
   23.2
   20.8
   21.7
   Hct
   22.8
   22.5
   16.9
   25.0
   23.2
   22.7
   Plt
   259
   251
   194
   171
   191
   177
   Cr
   2.3
   4.1
   4.0
   4.7
   TropT
   0.48
   0.46
   TCO2
   36
   34
   Glucose
   82
   93
   93
   102
   Other labs: PT / PTT / INR:32.4/32.4/3.4, CK / CKMB /
   Troponin-T:27/4/0.46, Alk Phos / T Bili:/0.4, Lactic Acid:1.5 mmol/L,
   LDH:394 IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:8.6 mg/dL
   Assessment and Plan
   65 y/o with metastatic lung cancer c/b cspine mets and cauda equina
   syndrome, here with complaints of chest pain and back pain after
   dialysis, found to be tachycardic, tachypnic, and delirous.
   Respiratory distress: Likely related to underlying progression of
   disease, volume overload,  with continued aspiration events
   -Speech and swallow evaluation today
   -Supplemental O2 and nebulizer treatments prn
   Tachycardia: Likely secondary to pain and withdrawl of beta blocker
   -Pain control with oxycontin/oxycodone and lidocaine patch
   -Continue home beta blocker
   Delirium: Likely related to pain and possibly steroids
   -continue morphine, oxycodone, and lidocaine patch
   -Steroids will be discontinued on [**4-13**], which is the end of his taper
   Metastatic lung cancer with spinal mets, cauda equina: No chemo options
   -continue decadron taper
   -pain management
   Leukocytosis: CT chest unchanged, and patchy opacities likely secondary
   to mets.  Sputum sample is negative.  Likely secondary to decadron
   -Defer antibiotics at this time
   Anemia: At baseline, transfuse for HCT <21
   Supratherapeutic INR: holding coumadin for now, will reconsider long
   term benefit given goals of care.  INR supratherapeutic yesterday.
   Renal failure:
   -HD protocol
   -Sevelamer
   ICU Care
   Nutrition:
   Comments: NPO for aspiration
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition:

2198-04-12 12:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Aspirated several times yesterday with eating
   Allergies:
   Penicillins
   Rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, Dyspnea, Tachypnea
   Flowsheet Data as of  [**2198-4-12**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.8
C (96.5
   HR: 68 (68 - 111) bpm
   BP: 110/59(72) {76/49(58) - 142/69(86)} mmHg
   RR: 12 (9 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.4 kg (admission): 71.8 kg
   Height: 67 Inch
                  Total In:
                                                                    570 mL
                                                                    120 mL
   PO:
                                                                    570 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                     92 mL
                                                                     10 mL
   Urine:
                                                                     92 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    478 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   177 K/uL
   102 mg/dL
   4.7 mg/dL
   23 mEq/L
   5.9 mEq/L
   98 mg/dL
   96 mEq/L
   132 mEq/L
   22.7 %
   21.7 K/uL
        [image002.jpg]
                             [**2198-4-7**]  01:56 AM
                             [**2198-4-7**]  02:10 AM
                             [**2198-4-7**]  05:25 AM
                             [**2198-4-7**]  05:02 PM
                             [**2198-4-8**]  02:47 AM
                             [**2198-4-9**]  10:30 AM
                             [**2198-4-10**]  09:10 AM
                             [**2198-4-10**]  04:49 PM
                             [**2198-4-11**]  01:13 PM
   WBC
   20.5
   29.1
   22.8
   23.2
   20.8
   21.7
   Hct
   22.8
   22.5
   16.9
   25.0
   23.2
   22.7
   Plt
   259
   251
   194
   171
   191
   177
   Cr
   2.3
   4.1
   4.0
   4.7
   TropT
   0.48
   0.46
   TCO2
   36
   34
   Glucose
   82
   93
   93
   102
   Other labs: PT / PTT / INR:32.4/32.4/3.4, CK / CKMB /
   Troponin-T:27/4/0.46, Alk Phos / T Bili:/0.4, Lactic Acid:1.5 mmol/L,
   LDH:394 IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:8.6 mg/dL
   Assessment and Plan
   64 M with MMP including CHF, DVT, ESRD on HD, metastatic poorly
   differentiated CA, likely NSLCA. He is s/p multiple recent
   admissions, most recently from [**3-7**] - [**2198-3-22**] for respiratory failure
   requiring intubation, thought due to volume overload
   from a missed HD session.
   1. Hypoxia/Resp Distress: likely asp. event based on timing and
   worsening CXR this AM. NPO Speech and Swallow eval. Need to address
   nutrition with family.
   2. Anemia: may have been spurious lab, only bumped to 25, stable though
   with repeat at 23. Possible etiologies would be GI- not obviously
   bleeding however, versus RP bleed or rectal sheath hematoma (does have
   an elevated INR)  In terms of how aggressively  to pursue we need to
   further clarify goals of care with sons.
   Leukocytosis:  [**Name2 (NI) 59**] evidence of infection but suspect recurrent
   aspiration based on this AM events
   All cx neg to date- ? working theory had been steroids and no source of
   infection. Will empirically cover with Levo and Flagyl if CXR worse
   today
   ESRD: HD yesterday
   Left DVT: Coumadin on hold with high INR, get coags with HD and may
   need Vit K to get back in range
   Pain control: increased oxycontin to TID, prn breakthrough for turns
   Given performance status/decubes, etc.  Prognosis overall is very poor.
   Pt will now be be changing his HCP to his sister [**Name (NI) **] and we are
   awaiting formal meeting
   ICU Care
   Nutrition: NPO speecvh and swallow
   Glycemic Control:
   Lines: lost PIV, need to meet with family and discuss allowing for no
   IV access versus PICC
   Prophylaxis:
   DVT: anticoag
   Stress ulcer: PPI
   Communication: Family meeting held  Comments: Family meeting for 2PM
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35
   Addendum
   Pt went into Afib with RVR dropped BP to 70s and desats to 80. called
   family to come in- they are at bedside and if he stablizes we will have
   a family meeting to clarify if comfort care only at this point.